US04593144
Preparation of 2-Nitro-3-Methyl Benzotrichloride
1 gm of 2-nitro-3-methyl benzyl chloride dissolved in 12 ml of carbon tetrachloride was charged into a reaction vessel with 0.25 gms of tetrabutyl ammonium chloride and 13 ml of methylene chloride. 20 ml of 50% aqueous sodium hydroxide was added to the mixture and the mixture heated for about 31/2 hours at 47° C. After reaction stopped, the organic phase was separated and a fresh charge of aqueous caustic phase with catalyst was added to the organic phase. The mixture was diluted with water, solvent evaporated to give 0.80 gms of crude which was purified by distillation at 110° C. to 120° C. (0.02-0.05 mm/Hg 0.026-0.067×105 pascals) to give a colorless oil which crystallized. Recrystallization from methanol gave colorless crystals. m.p. 61-62° C. Elemental analysis for C8H6Cl3NO2 :

reactant | 2-nitro-3-methyl benzyl chloride | 1 gm | [N+](=O)([O-])C1=C(CCl)C=CC=C1C | C8H8ClNO2
reactant | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | carbon tetrachloride | 12 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tetrabutyl ammonium chloride | 0.25 gms | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-Nitro-3-Methyl Benzotrichloride | [N+](=O)([O-])C1=C(C=CC=C1C)C(Cl)(Cl)Cl | C8H6Cl3NO2
